US08084448B2
C. [3-Benzyloxy-4-(methoxycarbonylmethylamino)-phenoxy]-acetic Acid 2-trimethylsilanylethyl Ester
To a mixture of 2-trimethylsilanylethyl (4-amino-3-benzyloxyphenoxy)acetate (4.56 g, 12.2 mmol) and potassium carbonate (3.37 g, 24.4 mmol) in DMF (25 mL) is added methyl bromoacetate (1.87 g, 12.2 mmol). The mixture is stirred at 60° C. for 1 h then is allowed to cool to RT. It is poured into water and extracted with EtOAc and the organic phase is washed with water (1×), brine (5×), and dried over Na2SO4. The solvent is removed under reduced pressure to afford the title compound which is used directly in the next step.

reactant | 2-trimethylsilanylethyl (4-amino-3-benzyloxyphenoxy)acetate | 12.2 mmol, 4.56 g | NC1=C(C=C(OCC(=O)OCC[Si](C)(C)C)C=C1)OCC1=CC=CC=C1 | C20H27NO4Si
reactant | potassium carbonate | 24.4 mmol, 3.37 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl bromoacetate | 12.2 mmol, 1.87 g | BrCC(=O)OC | C3H5BrO2
reactant | water | O | H2O
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
product | [3-Benzyloxy-4-(methoxycarbonylmethylamino)-phenoxy]-acetic Acid 2-trimethylsilanylethyl Ester | C[Si](CCOC(COC1=CC(=C(C=C1)NCC(=O)OC)OCC1=CC=CC=C1)=O)(C)C | C23H31NO6Si
